US04033962
To a solution of 10 g. of 3,4-dimethoxytoluene and 9.6 g. of 2-dimethoxymethylacrylonitrile in 200 ml. of dry methylene chloride was added dropwise at 0°, 2.3 ml. (0.0197 mole) of stannic chloride. The reaction mixture was stirred for 6 hours at 20°-25°, diluted with 500 ml. of ether, and the resulting solution washed with a 5% sodium bicarbonate solution until the aqueous layer remained basic. The combined aqueous washings were backwashed with ether and the organic layers were then combined and dried (MgSO4). The solvent was then removed under reduced pressure leaving an off-white residue of crude 1,2-dimethoxy-4-methyl-5-(2-cyano-3-methoxy-2-propenyl)benzene.

reactant | 3,4-dimethoxytoluene | COC=1C=C(C=CC1OC)C | C9H12O2
reactant | 2-dimethoxymethylacrylonitrile | COC(C(C#N)=C)OC | C6H9NO2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1,2-dimethoxy-4-methyl-5-(2-cyano-3-methoxy-2-propenyl)benzene | COC1=C(C=C(C(=C1)CC(=COC)C#N)C)OC | C14H17NO3
